US09233979B2
(R)—N-(4-methyl-6-(3-(1-phenylethyl)ureido)-1H-pyrazolo[4,3-c]pyridin-3-yl)acetamide
A conical reaction vial was charged with (R)-1-(3-amino-4-methyl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (101 mg, 0.325 mmol) and tetrahydrofuran (3000 μl) was injected. To the resulting solution was added pyridine (132 μl, 1.627 mmol) and acetic anhydride (95 μl, 1.009 mmol). The reaction was stirred for 1 hour and no conversion was observed. Acetyl chloride (116 μl, 1.627 mmol) was injected and the reaction became heterogenous. Dichloromethane (3 mL) was added to give a homogenous reaction solution. The reaction was stirred at ambient temperature for 30 minutes. Solvent was removed on the rotovap. Dioxane (3 ml) was added followed by 1N sodium hydroxide (0.256 ml, 0.256 mmol) and the reaction was heated to 50° C. for 30 minutes. Reversed phase HPLC was performed directly on the crude reaction mixture (5-40% ACN/Water, 30 mm Focus Gradient). The active fractions were frozen and concentrated on the lyophilizer, the residue was dissolved in methanol filtered through immobilized bicarbonate and the filtrate was concentrated to give the title compound. MS ESI calc'd for C18H20N6O2. [M+H]+ 353. found 353. 1H NMR (ppm, 500 Mhz, DMSO-d6): δ 12.72 (s, 1H), 10.01 (s, 1H), 9.26-8.75 (m, 1H), 8.00 (s, 1H), 7.69-7.13 (m, 6H), 5.09-4.69 (m, 1H), 3.31 (s, 3H), 2.06 (s, 3H), 1.39 (d, J=6.9 Hz, 1H).

reactant | (R)-1-(3-amino-4-methyl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.325 mmol, 101 mg | NC1=NNC2=C1C(=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C | C16H18N6O
reactant | pyridine | 1.627 mmol, 132 μl | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 1.009 mmol, 95 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | Acetyl chloride | 1.627 mmol, 116 μl | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydroxide | 0.256 mmol, 1N, 0.256 ml | [OH-].[Na+]
solvent | ACN Water | C(C)#N.O
solvent | Dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 3000 μl | O1CCCC1 | C4H8O
product | (R)—N-(4-methyl-6-(3-(1-phenylethyl)ureido)-1H-pyrazolo[4,3-c]pyridin-3-yl)acetamide | CC1=NC(=CC2=C1C(=NN2)NC(C)=O)NC(=O)N[C@H](C)C2=CC=CC=C2 | C18H20N6O2
